US07897619B2
3-(Isoquinolin-6-yl)propiolonitrile (0.060 g, 0.34 mmol) was suspended in 3.0 mL of EtOH. Hydroxylamine hydrochloride (0.070 g, 1.0 mmol) was added to the mixture in 1.5 mL of 10% aq. NaOH. The solution turned a clear, light yellow color immediately. After 3 hours, the reaction mixture was diluted with 20 mL of EtOAc and transferred to a separatory funnel. The mixture was washed with 3 mL of water and 5 mL of brine. The organic extracts were dried over MgSO4, filtered, and concentrated under reduced pressure, affording 5-(isoquinolin-6-yl)isoxazol-3-amine (0.070 g, 98% yield) as a yellow solid. MS m/z: 212 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 9.36 (s, 1H), 8.56 (d, J=5.7 Hz, 1H), 8.40 (s, 1H), 8.23 (d, J=8.6 Hz, 1H), 8.05 (d, J=8.4 Hz, 1H), 7.93 (d, J=5.9 Hz, 1H), 6.57 (s, 1H).

reactant | 3-(Isoquinolin-6-yl)propiolonitrile | 0.34 mmol, 0.060 g | C1=NC=CC2=CC(=CC=C12)C#CC#N | C12H6N2
reactant | Hydroxylamine hydrochloride | 1.0 mmol, 0.070 g | Cl.NO
solvent | EtOH | 3.0 mL | CCO | C2H6O
solvent | NaOH | 1.5 mL | [OH-].[Na+]
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 5-(isoquinolin-6-yl)isoxazol-3-amine | 0.070 g, 98% yield | C1=NC=CC2=CC(=CC=C12)C1=CC(=NO1)N | C12H9N3O
